US05256673
A solution of 3.88 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole in 40 ml of THF is added dropwise, under N2 and with stirring, to a suspension of 0.57 g of lithium aluminum hydride in 20 ml of THF. The mixture is stirred for a further hour at 20° and is decomposed with dilute sodium hydroxide solution and then with water and is filtered and worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-hydroxymethylindole, m.p. 178°.

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-formylindole | 3.88 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C=O | C24H26N2O
reactant | lithium aluminum hydride | 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-hydroxymethylindole | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)CO | C24H28N2O
